US05235068
In 50 ml of dichloroethane were dissolved 5.8 g (0.05 mole) of levulinic acid and 10.26 g (0.06 mole) of monochloroacetic anhydride. To the resulting solution were added 8.98 g (0.065 mole) of 1,2-dimethoxybenzene and 0.71 g of boron trifluoride-diethyl ether complex and the resulting mixture was then stirred at 50° C. for 5.5 hours. After completion of the reaction, the reaction solution was cooled and washed successively with water, 5% aqueous sodium carbonate solution and water. The organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to obtain 9.66 g of 4-(β-acetylpropionyl)-1,2-dimethoxybenzene.

reactant | levulinic acid | 0.05 mole, 5.8 g | C(CCC(=O)C)(=O)O | C5H8O3
reactant | monochloroacetic anhydride | 0.06 mole, 10.26 g | ClCC(=O)OC(CCl)=O | C4H4Cl2O3
reactant | 1,2-dimethoxybenzene | 0.065 mole, 8.98 g | COC1=C(C=CC=C1)OC | C8H10O2
solvent | dichloroethane | 50 ml | ClC(C)Cl | C2H4Cl2
product | 4-(β-acetylpropionyl)-1,2-dimethoxybenzene | 9.66 g, Yield: 76% | C(C)(=O)CCC(=O)C1=CC(=C(C=C1)OC)OC | C13H16O4
